US06995144B2
1-(1-Benzylpiperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone
After dissolving 2.57 g of 2-(trifluoromethyl)benzaldehyde in 15 ml of methanol, 2.75 g of p-toluenesulfonyl hydrazide was added, the mixture was stirred at room temperature for 2 hours, and then 1.09 g of potassium methoxide and a methanol solution (4 ml) of 1.50 g of 1-benzylpiperidine-4-carboxaldehyde was added, and the mixture saws shielded from light and stirred overnight at 55° C. The reaction solution was concentrated under reduced pressure, water was added, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue fleas purified by silica gel column chromatography (solvent: toluene/ethyl acetate) to obtain the title compound (1.30 g, 49% yield).

reactant | 2-(trifluoromethyl)benzaldehyde | 2.57 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | potassium methoxide | 1.09 g | C[O-].[K+]
reactant | 1-benzylpiperidine-4-carboxaldehyde | 1.50 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | 1-(1-Benzylpiperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone | 1.30 g, 49% yield | C(C1=CC=CC=C1)N1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C21H22F3NO
